US06982274B2
2,4-Difluoro-3-formyl-benzonitrile
In an atmosphere of nitrogen gas, 66 ml of a 1.6 M solution of n-butyllithium in hexane was added to an ice-cold solution of 11.1 g of N,N-diisopropylamine in 100 ml tetrahydrofuran, and the mixture was stirred at the same temperature for 20 minutes. After cooling to −78° C., a solution of 13.9 g of 2,4-difluorobenzonitrile in 15 ml tetrahydrofuran was added dropwise. After stirring at the same temperature for 10 minutes, 8.6 ml of dimethylformamide was added dropwise and the mixture was stirred at the same temperature for 15 minutes. After adding 20 ml of glacial acetic acid to the reaction mixture, 200 ml of water was added and the mixture was extracted with diethyl ether for two times. The organic layer was sequentially washed with 0.2 N hydrochloric acid and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The resulting crude crystals were triturated with diethyl ether-n-hexane, to give 8.61 g of the title compound as bright yellow crystals.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-diisopropylamine | 11.1 g | C(C)(C)NC(C)C | C6H15N
reactant | 2,4-difluorobenzonitrile | 13.9 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | dimethylformamide | 8.6 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2,4-Difluoro-3-formyl-benzonitrile | 8.61 g | FC1=C(C#N)C=CC(=C1C=O)F | C8H3F2NO
